US04382039
Furthermore, 4-nitrotoluene-2-sulphonic acid can be used for the preparation of 4,4'-dinitrostilbene-2,2'-disulphonic acid, in which, for example, an approximately 30 to 50% strength aqueous solution of 4-nitrotoluene-2-sulphonic acid is reacted with oxidizing agents, for example with atmospheric oxygen. 4,4'-Dinitrostilbene-2,2'-disulphonic acid can be further processed by reduction to give 4,4'-diaminostilbene-2,2'-disulphonic acid (see Ber. 30, 3,100), and is an important intermediate product for the preparation of optical brighteners (A. Dorlars, C.-W. Schellhammer and J. Schroeder, Angew. Chem. 87, 693 (1975)).

reactant | 4-nitrotoluene-2-sulphonic acid | [N+](=O)([O-])C=1C=C(C(=CC1)C)S(=O)(=O)O | C7H7NO5S
reactant | 4,4'-dinitrostilbene-2,2'-disulphonic acid | [N+](=O)([O-])C=1C=C(C(=CC1)C=CC=1C(=CC(=CC1)[N+](=O)[O-])S(=O)(=O)O)S(=O)(=O)O | C14H10N2O10S2
reactant | oxygen | O=O | O2
product | 4,4'-diaminostilbene-2,2'-disulphonic acid | NC=1C=C(C(=CC1)C=CC=1C(=CC(=CC1)N)S(=O)(=O)O)S(=O)(=O)O | C14H14N2O6S2
